US06268072B1
Synthesis of 4-t-butyl-2-benzoylbenzoic Acid (compound 4)
4-t-Butyl-phthalic anhydride (36.0 g; 176 mmol) and t-butyl benzene were placed under nitrogen in a 3-neck round-bottom flask equipped with a condenser. The condenser was attached to a water-gas trap for HCl released during the reaction. AlCl3 (56.0 g; 420 mmol) was added in portions during which time the mixture turned dark brown. Stirring became difficult in the thick mixture. The reaction was heated at 70° C. for 1 h and then cooled to room temperature. Ice was added slowly to the flask followed by concentrated HCl solution. A large clump of solid stuck to the bottom of the flask. This was washed multiple times with water and then dissolved in CH2Cl2, washed with water, dried over Na2SO4 and concentrated to give an oily solid. Hexane was added and after sonication, a blue-white solid was collected by filtration. Drying gave product as white solid 32.0 g (54% yield). 1H NMR (CDCl3) δ (ppm): 1.33 (s, 18 H), 7.30 (d, J=8.0 Hz, 1H), 7.43 (d, J=8.3 Hz, 2H), 7.63-7.70 (m, 3H), 8.08 (s, 1H); 13C NMR (CDCl3): 30.98, 34.92, 125.36, 125.41, 127.78, 127.84, 128.02, 129.51, 129.60, 129.81, 134.56, 139.83, 152.94, 156.80, 170.80, 196.89.

reactant | 4-t-Butyl-phthalic anhydride | 176 mmol, 36.0 g | C(C)(C)(C)C=1C=C2C(C(=O)OC2=O)=CC1 | C12H12O3
reactant | t-butyl benzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | HCl | Cl | ClH
reactant | AlCl3 | 420 mmol, 56.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | Hexane | CCCCCC | C6H14
product | 4-t-butyl-2-benzoylbenzoic Acid | 32.0 g, 54% yield | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)C(C1=CC=CC=C1)=O | C18H18O3
